US09079880B2
Cool a solution of 3-hydroxy-benzoic acid methyl ester (0.50 g, 3.42 mmol) in tetrahydrofuran (8 mL) to 0° C., and add (R)-2-hydroxy-propionic acid tert-butyl ester (0.52 g, 3.42 mmol) and triphenyl phosphine (0.90 g, 3.42 mmol). Add diethylazodicarboxylate (0.70 mL, 4.4 mmol) to this mixture via a syringe pump over a 1 hour period. Concentrate the reaction mixture under reduced pressure and purify the residue by flash silica gel chromatography to provide 0.80 g of 3-((S)-1-tert-butoxycarbonyl-ethoxy)-benzoic acid methyl ester as an oil.

reactant | 3-hydroxy-benzoic acid methyl ester | 3.42 mmol, 0.50 g | COC(C1=CC(=CC=C1)O)=O | C8H8O3
reactant | (R)-2-hydroxy-propionic acid tert-butyl ester | 3.42 mmol, 0.52 g | C(C)(C)(C)OC([C@@H](C)O)=O | C7H14O3
reactant | triphenyl phosphine | 3.42 mmol, 0.90 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 4.4 mmol, 0.70 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 3-((S)-1-tert-butoxycarbonyl-ethoxy)-benzoic acid methyl ester | 0.80 g | COC(C1=CC(=CC=C1)O[C@@H](C)C(=O)OC(C)(C)C)=O | C15H20O5
